US04371703
At approx. 100° C., 102 g (1 mol) of acetic acid anhydride are added to 146 g (1 mol) of isosorbide and 1 g of sodium acetate. This mixture is heated for half an hour under reflux and the acetic acid formed is then removed under a water-pump vacuum up to a sump temperature of approx. 140° C. An analysis of the residue shows that isosorbide, isosorbide-2-acetate, isosorbide-5-acetate and isosorbide-2,5-diacetate are present in approximately equal proportions. By the following transacylation and distillation, according to example 1, 182 g of raw isosorbide-2-acetate are obtained. After recrystallizing from 200 ml of acetone 92 g of pure isosorbide-2-acetate with a M.P. of 80° C. are obtained. The residue (90 g) remaining after concentrating the filtrate is again subjected to transacylation after adding 0.5 g of sodium acetate whereby again an almost quantitative yield of raw isosorbide-2-acetate is achieved. From this, 43 g of pure isosorbide-2-acetate and 46 g residue are obtained as described above. By another distillation in the presence of sodium acetate it is possible to prepare from the 46 g residue, 44 g of raw isosorbide-2-acetate from which, by recrystallisation, 26 g of pure isosorbide-2-acetate can be isolated. In this way a total amount of 161 g of pure isosorbide-2-acetate is obtained corresponding to 83% of the theory and 18 g residue which may be used for further transacylations. By repeating the above mentioned procedure resp. by adding the remaining residue to the next acylation batch an almost quantitative yield of pure isosorbide-2-acetate can be obtained.

reactant | acetic acid anhydride | 1 mol, 102 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | isosorbide | 1 mol, 146 g | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 0.5 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | isosorbide-2-acetate | quantitative yield | CC(=O)O[C@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C8H12O5
